US09388176B2
Methyl-3-(4-oxopiperidin-1-yl)-benzoate
A mixture of methyl-3-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-benzoate (1.80 g, 6.49 mmol) and p-toluenesulfonic acid monohydrate (123 mg, 0.649 mmol) in water (30 mL) and acetone (15 mL) was heated at reflux for 17 hours. The organic solvent was removed in vacuo and the aqueous mixture was extracted with dichloromethane. The organic extract was washed with saturated NaHCO3(aq.), dried (MgSO4), filtered and concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, 3:2 hexanes:EtOAc) followed by concentration gave the title compound as a yellow oil (1.20 g, 79%).

reactant | methyl-3-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-benzoate | 6.49 mmol, 1.80 g | COC(C1=CC(=CC=C1)N1CCC2(OCCO2)CC1)=O | C15H19NO4
reactant | p-toluenesulfonic acid monohydrate | 0.649 mmol, 123 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | 30 mL | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | Methyl-3-(4-oxopiperidin-1-yl)-benzoate | 1.20 g, 79% | COC(C1=CC(=CC=C1)N1CCC(CC1)=O)=O | C13H15NO3
